US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3-dimethylamino-benzoyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60 from 120 mg (0.30 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 1 mL THF and 1.3 mL 0.5M 3-N,N-dimethylanilinemagnesium bromide. Yield: 97 mg of a yellow solid. LC-MSD, m/z for C24H20BrN3O2 [M+H]+=462.0, 464.0; HPLC retention time: 2.2 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.30 mmol, 120 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C18H16BrN3O3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | bromide | 0.5M, 1.3 mL | [Br-]
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3-dimethylamino-benzoyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(C1=CC(=CC=C1)N(C)C)=O | C24H20BrN3O2
